US09056874B2
7-Chloro-4-(2,2-dibromovinyl)-5-methyl-1-tosyl-1H-indole
To a solution of 7-chloro-5-methyl-1-tosyl-1H-indole-4-carbaldehyde (48 mg, 0.138 mmol) and PPh3 (109 mg, 0.414 mmol) in DCM (1.4 mL) at 0° C., was added CBr4 (68.6 mg, 0.207 mmol) and the reaction was warmed to room temperature. After 10 minutes the reaction mixture was loaded onto silica gel and was purified by flash chromatography (0-50% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.00 (d, J=3.79 Hz, 1H) 7.88 (s, 1H) 7.73 (m, J=8.59 Hz, 2H) 7.42 (m, J=7.83 Hz, 2H) 7.23 (s, 1H) 6.71 (d, J=3.79 Hz, 1H) 2.37 (s, 3H) 2.23 (s, 3H).

reactant | 7-chloro-5-methyl-1-tosyl-1H-indole-4-carbaldehyde | 0.138 mmol, 48 mg | ClC1=CC(=C(C=2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C=O)C | C17H14ClNO3S
reactant | PPh3 | 0.414 mmol, 109 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 0.207 mmol, 68.6 mg | C(Br)(Br)(Br)Br | CBr4
solvent | DCM | 1.4 mL | C(Cl)Cl | CH2Cl2
product | 7-Chloro-4-(2,2-dibromovinyl)-5-methyl-1-tosyl-1H-indole | ClC=1C=C(C(=C2C=CN(C12)S(=O)(=O)C1=CC=C(C)C=C1)C=C(Br)Br)C | C18H14Br2ClNO2S
